US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-n-hexyl-2-phenylimino-4-thiazoline hydrobromide
Obtained (a) by a procedure analogous to that indicated in Example 1(a), from 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone and 3-n-hexyl-1-phenylthiourea, or (b) by a procedure analogous to that indicated in Example 1(b), from 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-n-hexyl-2-phenyliminothiazolidin-4-ol hydrobromide. Colorless crystals; melting point 234° C. (with decomposition).

reactant | 2-bromo-4'-chloro-3'-dimethylsulfamoylacetophenone | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O | C10H11BrClNO3S
reactant | 3-n-hexyl-1-phenylthiourea | C(CCCCC)NC(NC1=CC=CC=C1)=S | C13H20N2S
reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-n-hexyl-2-phenyliminothiazolidin-4-ol hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=CC=C1)CCCCCC)O)S(N(C)C)(=O)=O
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-n-hexyl-2-phenylimino-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)CCCCCC)S(N(C)C)(=O)=O | InChI=1S/C23H28ClN3O2S2.BrH/c1-4-5-6-10-15-27-21(17-30-23(27)25-19-11-8-7-9-12-19)18-13-14-20(24)22(16-18)31(28,29)26(2)3;/h7-9,11-14,16-17H,4-6,10,15H2,1-3H3;1H
